US06642389B2
c] 3-(4-Benzyloxy-benzofuran-7-yl)-2Z-ethoxy-acrylic acid ethyl ester
A suspension of (ethoxy-ethoxycarbonyl-methyl)-triphenyl-phosphonium chloride (2.04 g, 4.8 mmol) and DBU (0.8 g, 5.2 mmol) in THF (40 ml) was stirred for 10 min at ambient temperature under an argon atmosphere [for the preparation of (ethoxy-ethoxycarbonyl-methyl)-triphenyl-phosphonium chloride see: K. K. Bach, H. R. El-Seedi, H. M. Jensen, H. B. Nielsen, I. Thomson, K. B. G. Torssell, Tetrahedron 1994, 50, 7543-7556]. 4-Benzyloxy-benzofuran-7-carbaldehyde (0.8 g, 3.2 mmol) was added and the mixture was heated under reflux for 12 h. The solvent was concentrated at reduced pressure, the residue taken up with ethyl acetate, washed with saturated aqueous NH4Cl solution and two times with brine. The organic layer was dried over sodium sulfate, the solvent removed under reduced pressure and the residue purified by column chromatography (silica gel, hexane/AcOEt=9/1) to give 0.8 g (2.2 mmol, 69%) of the title compound as colorless oil.

reactant | (ethoxy-ethoxycarbonyl-methyl)-triphenyl-phosphonium chloride | 4.8 mmol, 2.04 g | [Cl-].C(C)OC(C(=O)OCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | DBU | 5.2 mmol, 0.8 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 4-Benzyloxy-benzofuran-7-carbaldehyde | 3.2 mmol, 0.8 g | C(C1=CC=CC=C1)OC1=CC=C(C2=C1C=CO2)C=O | C16H12O3
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 3-(4-Benzyloxy-benzofuran-7-yl)-2Z-ethoxy-acrylic acid ethyl ester | 2.2 mmol, 0.8 g, 69% | C(C)OC(/C(=C/C1=CC=C(C=2C=COC21)OCC2=CC=CC=C2)/OCC)=O | C22H22O5
